### PR TITLE
[Merged by Bors] - feat(RingTheory): `Algebra.FinitePresentation` descends along faithfully flat algebras

### PR DESCRIPTION
**Pull request by chrisflav**
From Pi1.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Finiteness/Descent.lean [hunk 1]
```diff
@@ -0,0 +1,134 @@
...
+  rw [faithfullyFlat_algebraMap_iff] at h
+  exact .of_finiteType_tensorProduct_of_faithfullyFlat S
+
+lemma FinitePresentation.codescendsAlong_faithfullyFlat :
+    CodescendsAlong FinitePresentation FaithfullyFlat := by
+  refine .mk _ finitePresentation_respectsIso fun R S T _ _ _ _ _ h h' ↦ ?_
+  rw [finitePresentation_algebraMap] at h' ⊢
+  rw [faithfullyFlat_algebraMap_iff] at h
+  exact .of_finitePresentation_tensorProduct_of_faithfullyFlat S
+
```
Comment (erdOne) [inline Mathlib/RingTheory/Finiteness/Descent.lean:133]: Can you also add a `CodescendsAlong Finite FaithfullyFlat`? Thanks.

File: Mathlib/RingTheory/TensorProduct/Maps.lean [hunk 2]
```diff
@@ -364,6 +364,29 @@ lemma comm_comp_includeRight :
...
   top_le_iff.mp <| (top_le_iff.mpr <| span_tmul_eq_top R A B).trans (span_le_adjoin R _)
 
+section
+
+omit [Algebra S A] [IsScalarTower R S A]
+
+attribute [local instance] Algebra.TensorProduct.rightAlgebra in
+/-- `S`-linear version of `Algebra.TensorProduct.comm` when `A ⊗[R] S`
+is viewed as an `S`-algebra via the right component. -/
+noncomputable def commRight : S ⊗[R] A ≃ₐ[S] A ⊗[R] S where
```
Comment (erdOne) [inline Mathlib/RingTheory/TensorProduct/Maps.lean:374]: Perhaps the simp normal form should be `commRight R S A x = Algebra.TensorProduct.comm R S A x` to get rid of the weird instance?

**Review by erdOne — APPROVED** [review]
Otherwise LGTM

File: Mathlib/RingTheory/TensorProduct/Maps.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/RingTheory/TensorProduct/Maps.lean:374]: Resolved in private communication. The answer is probably no.
